US06734180B1
Using ethyl 2-amino-4-isopropylthiophene-3-carboxylate (800 mg, 3.8 mmol) and formamide (5 ml), a similar procedure to a) in Example 19 was carried out to obtain 4-hydroxy-5-isopropylthieno[2,3-d]pyrimidine (330 mg, 1.7 mmol) having the following physical properties:

reactant | ethyl 2-amino-4-isopropylthiophene-3-carboxylate | 3.8 mmol, 800 mg | NC=1SC=C(C1C(=O)OCC)C(C)C | C10H15NO2S
reactant | formamide | 5 ml | C(=O)N | CH3NO
product | 4-hydroxy-5-isopropylthieno[2,3-d]pyrimidine | 1.7 mmol, 330 mg | OC=1C2=C(N=CN1)SC=C2C(C)C | C9H10N2OS
